US07531532B2
2-{[4-(Azetidin-1-yl)piperidin-1-yl]carbonylamino}-4-(4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyridine
To a solution of 4-(4-aminophenoxy)-2-{[4-(azetidin-1-yl)piperidin-1-yl]carbonylamino}pyridine (67.8 mg) in tetrahydrofuran (2.5 ml) was added a solution of 2-(4-fluorophenyl)acetyl isocyanate in tetrahydrofuran (0.25 M, 2.2 ml) at room temperature, followed by stirring for 2 hours. A solution of 2-(4-fluorophenyl)acetyl isocyanate in tetrahydrofuran (0.25 M, 1.5 ml) was further added thereto at room temperature. After 6 hours, a solution of 2-(4-fluorophenyl)acetyl isocyanate in tetrahydrofuran (0.25 M, 1.85 ml) and diisopropylethylamine (0.322 ml) were added thereto at room temperature, followed by stirring for 2 days. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=97:3). Fractions containing the target compound were concentrated to give a residue, which was then suspended in ethyl acetate (1 ml). The solid was filtered off and dried under aeration to provide the titled compound (17.0 mg, 17%) as white powder.

reactant | 4-(4-aminophenoxy)-2-{[4-(azetidin-1-yl)piperidin-1-yl]carbonylamino}pyridine | 67.8 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCC2)C=C1 | C20H25N5O2
reactant | 2-(4-fluorophenyl)acetyl isocyanate | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.25 M, 2.2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.25 M, 1.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.25 M, 1.85 ml | O1CCCC1 | C4H8O
solvent | diisopropylethylamine | 0.322 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 2-{[4-(Azetidin-1-yl)piperidin-1-yl]carbonylamino}-4-(4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyridine | 17.0 mg, 17% | N1(CCC1)C1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O | C29H31FN6O4
